US04840971
Synthesis of 2-(4-ethoxyphenyl)-3,3,3-trifluoropropyl 4- fluoro-3-anilinobenzyl ether (compound (10))
Under a nitrogen atmosphere, 120 mg of sodium hydride (60% oil dispersion) was added to 10 ml of dry THF. A solution of 0.69 of 2-(4-ethoxyphenyl)-3,3,3-trifluoropropanol and 0.82 g or 4-fluoro-3-anilinobenzyl bromide in 20 ml of dry THF was then added with ice-cooling, and the reaction solution was stirred with ice-cooling for 1 hour and at room temperature for 46 hours. Thereafter, the reaction mixture was poured into ice water and adjusted to pH 6 with dilute HCl and extracted twice with diethyl ether. The ether layers were combined, washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed under a reduced pressure, and the residue was subjected to column chromatography on silica gel [eluted with n-hexane/ethyl acetate (25:1) mixture] to obtain 368 mg of the desired compound.

reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | 2-(4-ethoxyphenyl)-3,3,3-trifluoropropanol | C(C)OC1=CC=C(C=C1)C(CO)C(F)(F)F | C11H13F3O2
reactant | 4-fluoro-3-anilinobenzyl bromide | FC1=C(C=C(CBr)C=C1)NC1=CC=CC=C1 | C13H11BrFN
reactant | HCl | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(4-ethoxyphenyl)-3,3,3-trifluoropropyl 4- fluoro-3-anilinobenzyl ether | 368 mg | FC1=C(C=C(COCC(C(F)(F)F)C2=CC=C(C=C2)OCC)C=C1)NC1=CC=CC=C1 | C24H23F4NO2
